US07732448B2
Into 3 ml of ethanol was resolved 0.3 g of 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine, 0.45 g of 3-methylpiperidine was added therein, and the mixture was stirred for 10 hours under reflux condition. The reaction mixture was cooled to near room temperature, and concentrated. Into the residue was added a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.37 g of 4-(2-butynyloxy)-5-fluoro-6-(3-methylpiperidino) pyrimidine (hereinafter, referred to as Compound (3)).

reactant | 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine | 0.3 g | C(C#CC)OC1=NC=NC(=C1F)Cl | C8H6ClFN2O
reactant | 3-methylpiperidine | 0.45 g | CC1CNCCC1 | C6H13N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-(2-butynyloxy)-5-fluoro-6-(3-methylpiperidino) pyrimidine | 0.37 g | C(C#CC)OC1=NC=NC(=C1F)N1CC(CCC1)C | C14H18FN3O
